US06927221B2
1-(1-Ethylpropyl)-6-iodo-4-methyl-1H-pyrrolo[3,2-c]quinoline
1-(1-Ethylpropyl)-6-iodo-4-methyl-2,3-dihydro-1H-pyrrolo[3,2-c]quinoline (450 mg, 1.18 mmol) was dissolved in toluene (10 mL). To the mixture was added activated manganese dioxide (4.95 g), followed by heating at 40° C. overnight. The reaction mixture was filtered through Celite and washed with ethyl acetate. The filtrate was evaporated, and the residue was purified by silica gel column chromatogrpahy (5% ethyl acetate/hexane), to give the title compound (334 mg, 0.884 mmol) as a white oil.

reactant | 1-(1-Ethylpropyl)-6-iodo-4-methyl-2,3-dihydro-1H-pyrrolo[3,2-c]quinoline | 1.18 mmol, 450 mg | C(C)C(CC)N1CCC=2C(=NC=3C(=CC=CC3C21)I)C | C17H21IN2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 4.95 g | [O-2].[O-2].[Mn+4]
product | 1-(1-Ethylpropyl)-6-iodo-4-methyl-1H-pyrrolo[3,2-c]quinoline | 0.884 mmol, 334 mg | C(C)C(CC)N1C=CC=2C(=NC=3C(=CC=CC3C21)I)C | C17H19IN2
